US06992107B1
4-Nitrobenzyl 5-amino-4-oxopentanoate hydrochloride [compound 11]
From 4-nitrobenzyl alcohol (5.0 g; 33 mmol) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol). The reaction was complete after 15 min at 135° C. The yield was 0.95 g (52%).

reactant | 4-nitrobenzyl alcohol | 33 mmol, 5.0 g | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
product | 4-Nitrobenzyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | InChI=1S/C12H14N2O5.ClH/c13-7-11(15)5-6-12(16)19-8-9-1-3-10(4-2-9)14(17)18;/h1-4H,5-8,13H2;1H
